US08455477B2
To a solution of tert-butyl 3-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}azetidine-1-carboxylate (24 mg, 0.059 mmol) in dichloromethane (0.5 ml), was added trifluoroacetic acid (0.50 ml, 6.49 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 30 mins. The reaction was diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted two times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/dichloromethane gradient) to afford 1-[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]-2-[1-(trifluoroacetyl)azetidin-3-yl]ethanone. 1H NMR (500 MHz, CDCl3) δ 8.35 (s, 1H), 8.32 (s, 1H), 7.77 (s, 1H), 7.67 (s, 1H), 6.81 (s, 1H), 4.68 (app t, 1H), 4.39 (app t, 1H), 4.10-4.16 (m, 1H), 4.06 (s, 3H), 3.98 (s, 3H), 3.85-3.91 (m, 1H), 3.36-3.53 (m, 2H), 3.23-3.33 (m, 1H). LRMS (ESI) calculated for C19H19F3N5O3 [M+H]+, 422.1; found 422.0.

reactant | tert-butyl 3-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}azetidine-1-carboxylate | 0.059 mmol, 24 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC2CN(C2)C(=O)OC(C)(C)C | C22H25N5O3
reactant | trifluoroacetic acid | 6.49 mmol, 0.50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 1-[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]-2-[1-(trifluoroacetyl)azetidin-3-yl]ethanone | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C(CC2CN(C2)C(C(F)(F)F)=O)=O | C19H18F3N5O3
